US08222248B2
To a solution of 4-amino-2,6-dimethylbenzaldehyde (600 mg) and bromoacetic acid methyl ester (0.4 mL) in DMF (20 mL) was added K2CO3 (1.4 g) and the suspension was heated at 80° C. After 1 h, additional bromoacetic acid methyl ester (0.4 mL) was added and this process was continued until the starting material was consumed (check by LC/MS). The reaction mixture was partioned between water and EtOAc. The aqueous layer was extracted with EtOAc. The combined organic layers were dried, filtered and concentrated and the residue was purified by flash chromatography using hexanes/ethyl acetate (2:1) to give (4-formyl-3,5-dimethylphenylamino)-acetic acid methyl ester as a yellow solid. MS (ESI)m/z 222 (M+H).

reactant | 4-amino-2,6-dimethylbenzaldehyde | 600 mg | NC1=CC(=C(C=O)C(=C1)C)C | C9H11NO
reactant | bromoacetic acid methyl ester | 0.4 mL | COC(CBr)=O | C3H5BrO2
reactant | K2CO3 | 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetic acid methyl ester | 0.4 mL | COC(CBr)=O | C3H5BrO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (4-formyl-3,5-dimethylphenylamino)-acetic acid methyl ester | COC(CNC1=CC(=C(C(=C1)C)C=O)C)=O | C12H15NO3
